US04061634
B. 11-(Carbethoxymethylthio)undecanoylmorpholine
6 g (0.017 mole) of 11-(Carboxymethylthio)undecanoylmorpholine, 4.8 g (0.11 mole) of anhydrous ethyl alcohol and 1 g of 2-naphthalenesulfonic acid were placed in a flask equipped with reflux condenser, and refluxed for 16 hours. The mixture was dissolved in benzene, washed with water, dried over anhydrous sodium sulfate, filtered, passed through a column of activated alumina and stripped of solvent. The product, 11-(carbethoxymethylthio)undecanoylmorpholine, had a nitrogen content of 3.66% (theory, 3.75%).

reactant | 11-(Carboxymethylthio)undecanoylmorpholine | 0.017 mole, 6 g | C(=O)(O)CSCCCCCCCCCCC(=O)N1CCOCC1 | C17H31NO4S
reactant | ethyl alcohol | 0.11 mole, 4.8 g | C(C)O | C2H6O
reactant | 2-naphthalenesulfonic acid | 1 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 11-(Carbethoxymethylthio)undecanoylmorpholine | C(=O)(OCC)CSCCCCCCCCCCC(=O)N1CCOCC1 | C19H35NO4S
